US07872031B2
To a solution of 4-chloro-3-nitropyridine (3.0 g, 18.9 mmol) in dry ethanol as added 2,3-difluorobenzenamine (3.66 g, 28.3 mmol). The reaction mixture was refluxed for 30 min. After cooling and concentration in vacuo to give a brown solid, the crude product was taken up in water and the aqueous solution adjusted to a pH of 8-9 and the solution extracted with EtOAc (3×100 mL). The combined organics were washed with water (3×100 mL) and brine solution (1×100 mL), respectively, dried over Na2SO4, and evaporated in vacuo to give a light brown solid. The crude product was triturated with petroleum ether (3×30 mL) to afford N-(2,3-difluorophenyl)-3-nitropyridin-4-amine (3.7 g, 79% yield) as light yellow solid.

reactant | 4-chloro-3-nitropyridine | 18.9 mmol, 3.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2,3-difluorobenzenamine | 28.3 mmol, 3.66 g | FC1=C(C=CC=C1F)N | C6H5F2N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(2,3-difluorophenyl)-3-nitropyridin-4-amine | 3.7 g, 79% yield | FC1=C(C=CC=C1F)NC1=C(C=NC=C1)[N+](=O)[O-] | C11H7F2N3O2
